US04556672
6-Methylthio-2-oxindole-1-carboxamide
Chlorosulfonyl isocyanate (5.66 g, 0.04 mole) was added to a slurry of 6-methylthio-2-oxindole (6.0 g, 0.033 mole) in acetonitrile (60 ml) at 5° to 10° C. The reaction mixture was stirred for one hour. Water (100 ml) was then added and stirring was continued for ten minutes. The aqueous solution was extracted with ethyl acetate (600 ml), which was then washed successively with water and brine, dried (MgSO4) and evaporated under reduced pressure to give a gray solid which was recrystallized from acetonitrile. Yield=3.0 g. An additional 0.71 g of product was obtained from the mother liquor. Total yield=3.71 g (50.6%); m.p. 176°-179° C.

reactant | Chlorosulfonyl isocyanate | 0.04 mole, 5.66 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 6-methylthio-2-oxindole | 0.033 mole, 6.0 g | CC1=CC=C2CC(NC2=C1)=S | C9H9NS
reactant | Water | 100 ml | O | H2O
reactant | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 6-Methylthio-2-oxindole-1-carboxamide | 0.71 g | CC1=CC=C2CC(N(C2=C1)C(=S)N)=O | C10H10N2OS
